US07053089B2
N2-[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-quinazoline-2,4-diamine
EXAMPLE 81 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 2-chloro-quinazolin-4-ylamine (2-chloro-quinazolin-4-ylamine was prepared from 2,4-dichloroquinazoline and ammonia in THF at room temperature; N. B. Chapman, G. M. Gibson, F. G. Mann, J. Chem. Soc., 1947, 890–899): MS (m+1)=426.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 2-chloro-quinazolin-4-ylamine | ClC1=NC2=CC=CC=C2C(=N1)N | C8H6ClN3
product | N2-[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-quinazoline-2,4-diamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CNC1=NC2=CC=CC=C2C(=N1)N | C22H27N5O2S
